US07232930B2
(S)-(−)-N-[4-[-4-[ethyl(6-fluoro-6-methyl-heptyl)amino]-1-hydroxybutyl]phenyl]methanesulfonamide (I)
N-[4-[(2S)-Tetrahydro-5-hydroxy-2-furanyl]phenyl]methanesulfonamide (10.0 g, 38.9 mmol) from Preparation 4 and N-ethyl-6-methyl-6-fluoroheptane amine (99% pure, 6.8 g, 38.9 mmol) from Preparation 7 were stirred with EtOAC (25 ml) in a flask for 1 hour. The slurry became clear solution, indicating formation of the iminium salt. Sodium triacetoxyborohydride (11.5 g, 54.4 mmol) was placed in a separate flask with EtOAc (50 ml). The mixture was cooled to 0° C. The first solution (iminium salt) was added slowly to the second mixture with vigorous stirring. The temperature was maintained at 0 to 4° C. After the addition was complete, the flask was rinsed with EtOAc (10 ml), and that was added also. The mixture was stirred overnight at 0° C. Water (100 ml) was added to quench the excess reagent, while the temperature was maintained at 0 to 4° C. While cooling was maintained, the pH was raised to 6.5 using a 10% aqueous sodium hydroxide solution. The layers were separated, and the aqueous was extracted with EtOAc (2×50 ml). The aqueous layer was then adjusted to pH 8.2, and the product was extracted with EtOAc (3×100 ml). The solvent was removed under reduced pressure to provide the title product as a colorless oil (14.9 g) in 92% yield. TLC 100% EtOAc, Rf=0.15.

reactant | N-[4-[(2S)-Tetrahydro-5-hydroxy-2-furanyl]phenyl]methanesulfonamide | 38.9 mmol, 10.0 g | OC1CC[C@H](O1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H15NO4S
reactant | N-ethyl-6-methyl-6-fluoroheptane amine | 38.9 mmol, 6.8 g | C(C)NCCCCCC(C)(F)C | C10H22FN
reactant | Sodium triacetoxyborohydride | 54.4 mmol, 11.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | (S)-(−)-N-[4-[-4-[ethyl(6-fluoro-6-methyl-heptyl)amino]-1-hydroxybutyl]phenyl]methanesulfonamide | 14.9 g, 92% yield | C(C)N(CCC[C@H](O)C1=CC=C(C=C1)NS(=O)(=O)C)CCCCCC(C)(C)F | C21H37FN2O3S
